US05380735
Synthesis of 4-bromo-2-allylmercapto-6-methylbenzothiazole
1.0 g of allyl mercaptan prepared above, 3.1 g of 2,4-dibromo-6-methyl-benzothiazole, 0.4 g of sodium hydroxide, 10 ml of tetrahydrofuran and 10 ml of water were mixed together and the obtained mixture was stirred for 3 hours at room temperature and then extracted with ethyl acetate. The extract was dried with anhydrous sodium sulfate and evaporated to obtain the title compound in a liquid state (Yield: 92.5%).

reactant | allyl mercaptan | 1.0 g | C(C=C)S | C3H6S
reactant | 2,4-dibromo-6-methyl-benzothiazole | 3.1 g | BrC=1SC2=C(N1)C(=CC(=C2)C)Br | C8H5Br2NS
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-bromo-2-allylmercapto-6-methylbenzothiazole | Yield: 92.5% | BrC1=CC(=CC2=C1N=C(S2)SCC=C)C | C11H10BrNS2
